US07608604B2
4-Cyano-2-fluorobenzamide
To a solution of 4-cyano-2-fluorobenzoic acid (500 mg, 3.0 mmol) in acetonitrile (20 ml) was added 1,1′-carbonyldiimidazole (736 mg, 4.5 mmol). The mixture was stirred at room temperature for 45 min, before addition of aqueous ammonium hydroxide solution (35%, 10 ml). The reaction mixture was stirred for 45 min and ice cold water (15 ml) was added. The precipitate was collected by filtration and dried in a vacuum oven at 60° C. for 18 h to give the title compound (292 mg).

reactant | 4-cyano-2-fluorobenzoic acid | 3.0 mmol, 500 mg | C(#N)C1=CC(=C(C(=O)O)C=C1)F | C8H4FNO2
reactant | 1,1′-carbonyldiimidazole | 4.5 mmol, 736 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-Cyano-2-fluorobenzamide | 292 mg | C(#N)C1=CC(=C(C(=O)N)C=C1)F | C8H5FN2O
